US07906517B2
Ethyl trans-(4-{[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-methyl}-cyclohexyl)-acetate (which is prepared by treating the corresponding starting compound in a same manner as in Example 12 (1)-(3)) (2.6 g) is dissolved dimethylsulfoxide (15 ml), and thereto are added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (73 mg), potassium acetate (977 mg) and bis(pinacolato)diboron (1.26 g), and the mixture is heated to 80° C. under nitrogen atmosphere and stirred for 2 hours. The reaction solution is cooled to room temperature and thereto are added a saturated brine and ethyl acetate, and the mixture is separated and the organic layer is washed with a saturated brine again, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in tetrahydrofuran (30 ml) and thereto is added dropwise a 30% aqueous hydrogen peroxide solution (30 ml) under ice-cooling. The mixture is stirred for 1 hour, and thereto is added a saturated aqueous sodium thiosulfate solution to consume the excess hydrogen peroxide and thereto are added water and ethyl acetate, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1 to 7:3) to give ethyl trans-(4-{[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethylamino]-methyl}-cyclohexyl)-acetate (1.29 g). MS (m/z): 721 [M+H]+

reactant | Ethyl trans-(4-{[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-methyl}-cyclohexyl)-acetate | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C[C@@H]2CC[C@H](CC2)CC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C34H36BrF9N4O2
reactant | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
reactant | potassium acetate | 977 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl trans-(4-{[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethylamino]-methyl}-cyclohexyl)-acetate | 1.29 g | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C[C@@H]2CC[C@H](CC2)CC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C34H37F9N4O3
